US07576208B2
3a. Synthesis of 4,5-dimethylphthalaldehyde—Compound 2
To a solution of oxalyl chloride 2M in dichloromethane (DCM) (26.5 ml, 53.0 mmol, 2.2 molar equivalents) cooled to −78° C. was added dropwise a solution of dimethylsulfoxide (DMSO) (7.5 ml, 105.8 mmol, 4.4 molar equivalents) in DCM (10 ml). The solution was stirred at −78° C. for 5 minutes and 4,5-dimethylbenzene-1,2-dimethanol (4.0 g, 24.1 mmol, 1.0 molar equivalent) dissolved in a mixture of DCM-DMSO (2 ml-4 ml) was added dropwise. The solution was stirred for 1 hour at −78° C. and triethylamine (20 ml) was slowly added at −78° C. The reaction mixture was stirred for 10 minutes at −78° C. and slowly warmed up to room temperature. Ice-cold water (100 ml) was added to the reaction mixture and the aqueous layer extracted with DCM (3 times 100 ml). The organic fractions were combined, dried over magnesium sulfate, filtered and concentrated in vacuum to give a brown oil. Purification by column chromatography on silica gel (eluent: hexane-ethyl acetate 8:2) gave the title compound as white needles (3.2 g, 82%). 1H NMR (300.13 MHz, CDCl3) δ(ppm) 2.42 (s, 6H) 7.73 (s, 2H) 10.50 (s, 2H).

reactant | oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 105.8 mmol, 4.4 molar, 7.5 ml | CS(=O)C | C2H6OS
reactant | 4,5-dimethylbenzene-1,2-dimethanol | 24.1 mmol, 1.0 molar, 4.0 g | CC=1C=C(C(=CC1C)CO)CO | C10H14O2
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 ml | ClCCl | CH2Cl2
solvent | DCM DMSO | 2 ml-4 ml | ClCCl.CS(=O)C
solvent | dichloromethane | 53.0 mmol, 2.2 molar, 26.5 ml | ClCCl | CH2Cl2
product | 4,5-dimethylphthalaldehyde | 3.2 g, 82% | CC=1C=C(C(C=O)=CC1C)C=O | C10H10O2
